US06498169B1
Synthesis of 4-[N-(3,4-Methylenedioxyphenyl)-N-[[2-(3,4,5-trimethoxyphenyl) pyridin-4-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Trihydrochloride
4-(3,4-Methylenedioxyphenylamino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine (119 mg) and 4-chloromethyl-2-(3,4,5-trimethoxyphenyl) pyridine (114 mg) were condensed by the same manner as described in Example 9. Yellow oil of a free base was converted to a trihydrochloride which gave the title compound as yellow powder.

reactant | 4-(3,4-Methylenedioxyphenylamino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | 119 mg | C1OC=2C=C(C=CC2O1)NC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C27H31N3O5
reactant | 4-chloromethyl-2-(3,4,5-trimethoxyphenyl) pyridine | 114 mg | ClCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
product | 4-[N-(3,4-Methylenedioxyphenyl)-N-[[2-(3,4,5-trimethoxyphenyl) pyridin-4-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Trihydrochloride | Cl.Cl.Cl.C1OC=2C=C(C=CC2O1)N(CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C42H46N4O8.3ClH/c1-47-37-19-29(20-38(48-2)41(37)51-5)33-17-27(9-13-43-33)24-45-15-11-31(12-16-45)46(32-7-8-35-36(23-32)54-26-53-35)25-28-10-14-44-34(18-28)30-21-39(49-3)42(52-6)40(22-30)50-4;;;/h7-10,13-14,17-23,31H,11-12,15-16,24-26H2,1-6H3;3*1H
